US06207678B1
3,5-Dimethylbenzoyl chloride (1.33 g) was added dropwise to a suspension of 3-(3,4-dichlorophenyl)-4-(imidazol-1-yl)butan-1-ol (0.75 g) (see Preparation 19) and triethylamine (1.1 g) in anhydrous acetonitrile (15 ml) and the solution stirred at room temperature for 120 hours. The mixture was then mixed with water (30 ml) and dichloromethane (50 ml), the organic phase separated and washed sequentially with water and brine. The solvent was removed under reduced pressure to give a residue which was chromatographed on silica gel eluting with a solvent gradient of 100:0 changing to 99:1, by volume, dichloromethane:methanol to give 3-(3,4-dichlorophenyl)-4-[2-(3,5-dimethylbenzoyl)imidazol-1-yl]butyl 3,5-dimethylbenzoate (0.94 g) as a yellow foam.

reactant | 3,5-Dimethylbenzoyl chloride | 1.33 g | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
reactant | 3-(3,4-dichlorophenyl)-4-(imidazol-1-yl)butan-1-ol | 0.75 g | ClC=1C=C(C=CC1Cl)C(CCO)CN1C=NC=C1 | C13H14Cl2N2O
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | water | 30 ml | O | H2O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(3,4-dichlorophenyl)-4-[2-(3,5-dimethylbenzoyl)imidazol-1-yl]butyl 3,5-dimethylbenzoate | 0.94 g | CC=1C=C(C(=O)OCCC(CN2C(=NC=C2)C(C2=CC(=CC(=C2)C)C)=O)C2=CC(=C(C=C2)Cl)Cl)C=C(C1)C | C31H30Cl2N2O3
